US07262185B2
2-bromo-4-methylpyridine (4.7 g) was dissolved in diethylether (150 ml), and the mixture was cooled to −78° C. under argon atmosphere. 1.6M n-butyllithium hexane solution (16.8 ml) was added dropwise to the solution, and the mixture was stirred for 30 minutes. The reaction solution was added dropwise to a solution of 4-fluoro-N-methoxy-N-methyl-2-trifluoromethylbenzamide (6.2 g) in diethylether (50 ml) under argon atmosphere at −78° C. The mixture was allowed to be at room temperature and stirred overnight, and water was added to the mixture. The mixture was concentrated and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give 2-(4-fluoro-2-trifluoromethylbenzoyl)-4-methylpyridine (4.5 g) as pale yellow amorphous.

reactant | 2-bromo-4-methylpyridine | 4.7 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | n-butyllithium hexane | 1.6M, 16.8 ml | CCCCCC.C(CCC)[Li]
reactant | 4-fluoro-N-methoxy-N-methyl-2-trifluoromethylbenzamide | 6.2 g | FC1=CC(=C(C(=O)N(C)OC)C=C1)C(F)(F)F | C10H9F4NO2
reactant | water | O | H2O
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-fluoro-2-trifluoromethylbenzoyl)-4-methylpyridine | 4.5 g | FC1=CC(=C(C(=O)C2=NC=CC(=C2)C)C=C1)C(F)(F)F | C14H9F4NO
